US09216173B2
To 4-chloro-6-methylpyridin-2-amine (100 mg, 0.701 mmol) and 1,2,3-triazole (0.133 mL, 2.30 mmol) in a pressure tube was added DIPEA (0.185 mL, 1.06 mmol). The reaction mixture was sealed and heated at 150° C. for 1.5 hours. The reaction mixture was cooled, diluted with DCM (20 mL), and washed with water (10 mL). The organics were separated, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was slurried in 5% methanol/ethyl acetate (5 mL) and sonicated. The mixture was filtered, and the collected solids were dried under reduced pressure to afford 6-methyl-4-(1H-1,2,3-triazol-1-yl)pyridin-2-amine. MS ESI calc'd. for C8H10N5 [M+H]+ 176. found 176. 1H NMR (500 MHz, DMSO-d6) δ 8.79 (s, 1H), 7.95 (s, 1H), 6.90 (s, 1H), 6.75 (s, 1H), 6.28 (s, 2H), 2.23 (s, 3H).

reactant | 4-chloro-6-methylpyridin-2-amine | 0.701 mmol, 100 mg | ClC1=CC(=NC(=C1)C)N | C6H7ClN2
reactant | 1,2,3-triazole | 2.30 mmol, 0.133 mL | N1N=NC=C1 | C2H3N3
reactant | DIPEA | 1.06 mmol, 0.185 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-methyl-4-(1H-1,2,3-triazol-1-yl)pyridin-2-amine | CC1=CC(=CC(=N1)N)N1N=NC=C1 | C8H9N5
